US04347358
6.25 g of t-butyl 7-benzamido-3-bromomethyl-3-cephem-4-carboxylate-1-oxide were added to 25 ml of trifluoroacetic acid at room temperature and after stirring for 15 minutes at room temperature, the trifluoroacetic acid was evaporated under vacuo. After addition of 20 ml of dichloromethane, evaporation to dryness was repeated. 25 ml of ether were added to the residue and the formed crystals were vacuum filtered, washed with ether and dried under vacuo to obtain 5.77 g of 7-benzamido-3-bromomethyl-3-cephem-4-carboxylic acid-1-oxide as a slightly yellowish colored solid having the following characteristics:

reactant | t-butyl 7-benzamido-3-bromomethyl-3-cephem-4-carboxylate-1-oxide | 6.25 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2=O)CBr)C(=O)OC(C)(C)C)C1=O | C19H21BrN2O5S
reactant | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-benzamido-3-bromomethyl-3-cephem-4-carboxylic acid-1-oxide | 5.77 g | C(C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2=O)CBr)C(=O)O)C1=O | C15H13BrN2O5S
